US05780482
A mixture of 5-chloro-3-ethoxy-2-methyl-1,8-naphthyridine (2.0 g) and 4-(2-pyridyloxy)aniline (1.67 g) in IMS (50 ml) was boiled under reflux for 3 hours and then allowed to stand at ambient temperature overnight. The mixture was evaporated under reduced pressure and the residue recrystallised from IMS to give a solid which was dissolved in hot IMS and then cooled in an ice bath while hydrogen chloride gas was bubbled through. The mixture was evaporated to dryness and the residue was recrystallised from IMS to give 3-ethoxy-2-methyl-5-[4-(2-pyridyloxy)anilino]-1,8-naphthyridine dihyrochloride trihydrate, m.p. 244°-247° C. Borderline active (1/1) at 30 mg/kg.

reactant | 5-chloro-3-ethoxy-2-methyl-1,8-naphthyridine | 2.0 g | ClC1=C2C=C(C(=NC2=NC=C1)C)OCC | C11H11ClN2O
reactant | 4-(2-pyridyloxy)aniline | 1.67 g | N1=C(C=CC=C1)OC1=CC=C(N)C=C1 | C11H10N2O
reactant | hydrogen chloride | Cl | ClH
product | 3-ethoxy-2-methyl-5-[4-(2-pyridyloxy)anilino]-1,8-naphthyridine dihyrochloride trihydrate | O.O.O.Cl.Cl.C(C)OC=1C(=NC2=NC=CC(=C2C1)NC1=CC=C(C=C1)OC1=NC=CC=C1)C | InChI=1S/C22H20N4O2.2ClH.3H2O/c1-3-27-20-14-18-19(11-13-24-22(18)25-15(20)2)26-16-7-9-17(10-8-16)28-21-6-4-5-12-23-21;;;;;/h4-14H,3H2,1-2H3,(H,24,25,26);2*1H;3*1H2
